US05576343
1.2 g of sodium cyanide was dissolved in 30 ml of dimethyl sulfoxide at a temperature of 90° C. To this was gradually added 18.5 g of 3-(5-bromobenzo[b]thien-2-yl)-2-(4-methoxyphenyl)propyl methanesulfonate, followed by stirring at 80° C. for 1 hour. The resulting reaction solution was mixed with an ethyl acetate/toluene mixture, washed with water, and then dried to distill off the solvent. Crystals thus precipitated were washed with ethanol and dried to obtain 5 g of 3-(5-bromobenzo[b]thien-2-yl)-2-(4-methoxyphenyl)butyronitrile. The same compound was also obtained with a yield of 2 g, by concentrating the ethanol solution resulting from the washing of crystals and subjecting the concentrate to silica gel column chromatography using chloroform as an elution solvent.

reactant | sodium cyanide | 1.2 g | [C-]#N.[Na+]
reactant | 3-(5-bromobenzo[b]thien-2-yl)-2-(4-methoxyphenyl)propyl methanesulfonate | 18.5 g | CS(=O)(=O)OCC(CC1=CC2=C(S1)C=CC(=C2)Br)C2=CC=C(C=C2)OC | C19H19BrO4S2
reactant | ethyl acetate toluene | C(C)(=O)OCC.C1(=CC=CC=C1)C
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 3-(5-bromobenzo[b]thien-2-yl)-2-(4-methoxyphenyl)butyronitrile | 5 g | BrC1=CC2=C(SC(=C2)C(C(C#N)C2=CC=C(C=C2)OC)C)C=C1 | C19H16BrNOS
